US09193741B2
Synthesis of dimethyl 2-(3-(4-fluorophenoxy)propanamido)malonate
This compound was synthesized from dimethyl aminomalonate according to the procedure for the preparation of example 2 using 3-(4-fluorophenoxy)propionic acid. The crude residue was purified by flash chromatography on silica (CH2Cl2/MeOH 50:1) to yield the title compound as a white solid (80%).

reactant | dimethyl aminomalonate | NC(C(=O)OC)C(=O)OC | C5H9NO4
reactant | 3-(4-fluorophenoxy)propionic acid | FC1=CC=C(OCCC(=O)O)C=C1 | C9H9FO3
product | dimethyl 2-(3-(4-fluorophenoxy)propanamido)malonate | 80% | FC1=CC=C(OCCC(=O)NC(C(=O)OC)C(=O)OC)C=C1 | C14H16FNO6
